US07897792B2
N-(3-Mercaptophenyl)acetamide
3-Aminothiophenol (1.0 g, 7.99 mmol), acetic anhydride (0.83 mL) and triethylamine (1.7 mL) were dissolved in methylene chloride, and the solution was stirred at room temperature for 2 hours. It was then purified by silica gel chromatography (hexane:ethyl acetate=3:1) to yield the title compound (1.16 g, 87%).

reactant | 3-Aminothiophenol | 7.99 mmol, 1.0 g | NC=1C=C(C=CC1)S | C6H7NS
reactant | acetic anhydride | 0.83 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.7 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-Mercaptophenyl)acetamide | 1.16 g, 87% | SC=1C=C(C=CC1)NC(C)=O | C8H9NOS
